US08563575B2
2-Chloro-1-methyl-1H-benzimidazole (50 mg) was added to a solution of 6-chloro-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (90 mg) and NaH (13.2 mg) in DMF (2 mL) at room temperature. The mixture was heated at 180° C. for 30 min under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 6-chloro-1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) as colorless crystals.

reactant | 2-Chloro-1-methyl-1H-benzimidazole | 50 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 6-chloro-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 90 mg | ClC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)O | C14H12ClN3O2
reactant | NaH | 13.2 mg | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 6-chloro-1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | ClC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1 | C22H18ClN5O2
